US07544704B2
5-Methyl-4-(1-methyl-1H-imidazol-2-ylethynyl)-3-phenyl-isoxazole
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (73 mg, 0.40 mmol) was converted (using 2-iodo-1-methyl-1H-imidazole instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 32 mg, 30%) which was obtained as a light brown solid. MS: m/e=264.2 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.40 mmol, 73 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 2-iodo-1-methyl-1H-imidazole | IC=1N(C=CN1)C | C4H5IN2
product | 5-Methyl-4-(1-methyl-1H-imidazol-2-ylethynyl)-3-phenyl-isoxazole | 32 mg, 30% | CC1=C(C(=NO1)C1=CC=CC=C1)C#CC=1N(C=CN1)C | C16H13N3O
